US05258356
2-Amino-7-chloro-5,6-dimethyl-1,8-naphthyridine
34.6 g (0.15 mol) of 2-acetamino-7-hydroxy-5,6-dimethyl-1,8-naphthyridine and 380 ml of phosphorus oxychloride are boiled under reflux for 30 minutes, the starting material dissolving. Excess POCl3 is distilled off, the residue poured onto ice and concentrated hydrochloric acid is added. After the mixture has been boiled under reflux for 30 minutes, it is made alkaline with 50% strength sodium hydroxide solution. The precipitate is suction filtered and recrystallized from 4 liters of methanol. There is obtained 28.7 g (92%) of a pale brown solid which is further reacted without any purification.

reactant | 2-acetamino-7-hydroxy-5,6-dimethyl-1,8-naphthyridine | 0.15 mol, 34.6 g | N(C(=O)C)C1=NC2=NC(=C(C(=C2C=C1)C)C)O | C12H13N3O2
reactant | phosphorus oxychloride | 380 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Amino-7-chloro-5,6-dimethyl-1,8-naphthyridine | 28.7 g, 92% | NC1=NC2=NC(=C(C(=C2C=C1)C)C)Cl | C10H10ClN3
